US08252810B2
(1) Methanesulfonic acid 2-(7-methyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyrimidin-6-yl)ethyl ester
After dissolving 6-(2-hydroxy-ethyl)-7-methyl-2,3-dihydro-thiazolo[3,2-a]pyrimidin-5-one (CAS 86487-53-8) (225 mg) in dichloromethane (10 ml), triethylamine (0.44 ml) was added, and then methanesulfonyl chloride (0.20 ml) was added dropwise while stirring on ice. After stirring for 10 minutes, ethyl acetate was added to the reaction mixture and the resulting mixture was filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by NH silica gel column chromatography to obtain the title compound (264 mg).

reactant | 6-(2-hydroxy-ethyl)-7-methyl-2,3-dihydro-thiazolo[3,2-a]pyrimidin-5-one | 225 mg | OCCC1=C(N=C2N(C1=O)CCS2)C | C9H12N2O2S
reactant | methanesulfonyl chloride | 0.20 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.44 ml | C(C)N(CC)CC | C6H15N
product | Methanesulfonic acid 2-(7-methyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyrimidin-6-yl)ethyl ester | 264 mg | CC=1N=C2N(C(C1CCOS(=O)(=O)C)=O)CCS2 | C10H14N2O4S2
